US09145441B2
Compound 83b. (R)-2-[(R)-1-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-but-3-enoic acid
A cooled (0° C.) solution of (R)-3-{(R)-2-[(R)-1-(tert-butyl-dimethyl-silanyloxy)-ethyl]-but-3-enoyl}-4-isopropyl-5,5-dimethyl-oxazolidin-2-one (400 mg, 1.04 mmol) in tetrahydrofuran/water (15 mL, 2:1) was subsequently treated with hydrogen peroxide (30% aqueous, 537 μL, 5.21 mmol) and lithium hydroxide monohydrate (87 mg, 2.09 mmol). The mixture was allowed to warm up to room temperature overnight. The reaction was quenched with sodium metabisulfite until Kl/starch paper negative. After stirring for 2 h at room temperature the volatiles were removed in vacuo. The mixture was then diluted with water and the pH was adjusted with potassium carbonate. The aqueous layer was washed with dichloromethane (2×20 mL) and acidified with hydrochloric acid (pH˜1) then extracted with ethyl acetate (3×30 mL). All ethyl acetate layers were combined and the volatiles were removed in vacuo to afford the title compound (200 mg, 79%) as a clear oil. 1H NMR (300 MHz, CDCl3) δ 0.09 (s, 3H), 0.11 (s, 3H), 0.89 (s, 9H), 1.22 (d, J=6.0 Hz, 3H), 3.07 (t, J=8.7 Hz, 4.11 (pentet, J=6.5 Hz, 1H), 5.20-5.35 (m, 2H), 5.70-5.90 (m, 1H).

reactant | (R)-3-{(R)-2-[(R)-1-(tert-butyl-dimethyl-silanyloxy)-ethyl]-but-3-enoyl}-4-isopropyl-5,5-dimethyl-oxazolidin-2-one | 1.04 mmol, 400 mg | C(C)(C)(C)[Si](O[C@H](C)[C@H](C(=O)N1C(OC([C@H]1C(C)C)(C)C)=O)C=C)(C)C | C20H37NO4Si
reactant | hydrogen peroxide | 5.21 mmol, 537 μL | OO | H2O2
reactant | lithium hydroxide monohydrate | 2.09 mmol, 87 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran water | 15 mL | O1CCCC1.O
product | (R)-2-[(R)-1-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-but-3-enoic acid | 200 mg, 79% | C(C)(C)(C)[Si](O[C@H](C)[C@H](C(=O)O)C=C)(C)C | C12H24O3Si
